US07381719B2
Part B: 5-(4-Formylphenoxy)pyrazine-2-carboxamide
Dissolve 5-(4-formylphenoxy)pyrazine-2-carbonitrile (1.87 g, 8.30 mmol) and K2CO3 (0.573 g, 4.15 mmol) in DMSO (21 mL). Add 30% H2O2 (2.4 mL, 20.8 mmol) and stir at room temperature for 22 hours. Add additional K2CO3 (0.573 g, 4.15 mmol) and heat at 55° C for about 2.5 hours. Cool the reaction mixture and dilute with CH2Cl2, (200 mL). Wash with water (1×100 (mL) and saturated aqueous NaHCO3 (1×100 mL). Dry the organic layer over Na2SO4, filter and concentrate. Purify by flash chromatography, eluting with 0-50% ethyl acetate in dichloromethane to give the title compound (0.478 g, 23.7%): TOF MS ES+ 244.1 (M+H)+, HRMS calcd for C12H10N33 244.0722 (M+H)+, found 244.0709, time 0.38 min; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), 0.1% TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 20-99% over 23 min], tR=7.2 min, 100% purity.

reactant | 5-(4-formylphenoxy)pyrazine-2-carbonitrile | 8.30 mmol, 1.87 g | C(=O)C1=CC=C(OC=2N=CC(=NC2)C#N)C=C1 | C12H7N3O2
reactant | K2CO3 | 4.15 mmol, 0.573 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 20.8 mmol, 2.4 mL | OO | H2O2
reactant | K2CO3 | 4.15 mmol, 0.573 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 21 mL | CS(=O)C | C2H6OS
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-Formylphenoxy)pyrazine-2-carboxamide | 0.478 g, 23.7% | C(=O)C1=CC=C(OC=2N=CC(=NC2)C(=O)N)C=C1 | C12H9N3O3
